US09212190B2
Synthesis of (2S)-2-amino-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide (I-146)
To a solution of benzyl N-[(1S)-2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](methyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-1-carbamoylethyl]carbamate (70 mg, 0.11 mmol, 1.00 equiv) in dichloromethane (5 mL) was added hydrogen chloride (12 M, 2 mL). The resulting solution was stirred for 5 h at 30° C. and then concentrated under vacuum. The crude product (70 mg) was purified by preparative HPLC under the following conditions: Column: SunFire Prep C18, 19*150 mm, 5 μm; mobile phase: water (with 50 mL NH4HCO3) and CH3CN (5.0% CH3CN up to 43.0% in 12 min, up to 95.0% in 2 min, down to 5.0% in 2 min); UV detection at 254/220 nm. This resulted in 28 mg (64%) of (2S)-2-amino-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide as a white solid. MS (ES): m/z 390 (M+H)+. 1H NMR (300 MHz, CD3OD): δ 1.39-1.55 (m, 3H), 1.72-1.85 (m, 2H), 2.17-2.28 (m, 3H), 2.29-2.39 (m, 3H), 2.56 (s, 3H), 2.63-2.72 (m, 1H), 2.81-3.97 (m, 2H), 3.05-3.15 (m, 1H), 3.35-3.45 (m, 2H), 5.20-5.35 (m, 1H), 8.42 (s, 1H).

reactant | benzyl N-[(1S)-2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](methyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-1-carbamoylethyl]carbamate | 0.11 mmol, 70 mg, 1.00 equiv | C(C)(C)(C)OC(=O)N(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@@H](C(N)=O)NC(OCC1=CC=CC=C1)=O)C | C32H41N5O6S
reactant | hydrogen chloride | 12 M, 2 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S)-2-amino-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide | N[C@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC | C19H27N5O2S
